US08314098B2
(Step 3): N-(3-Methyl-benzylidene)-N′-{2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl}-hydrazine (Compound 3)
There was suspended, in ethanol (2 mL), 5-chloro-2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (50.0 mg, 0.152 mM) and then potassium carbonate (23.1 mg, 0.152 mM) and hydrazine monohydrate (36.9 μL, 0.760 mM) were added to the resulting suspension. This suspension was stirred at 150° C. for 20 minutes under the irradiation with microwaves, diluted with a saturated common salt aqueous solution and then extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate and then the solvent was distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (5.0 μL, 0.087 mM) and 3-methyl-benzaldehyde (17.9 μL, 0.152 mM) were added to the suspension and then the resulting mixture was stirred at room temperature for one hour. This reaction mixture was filtered and then the resulting solid was purified by the NH-silica gel column chromatography (methylene chloride) to thus give the title compound (31.4 mg, overall yield of these two steps: 48%).

reactant | 5-chloro-2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.152 mM, 50.0 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)C | C17H17ClN4O
reactant | potassium carbonate | 0.152 mM, 23.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrazine monohydrate | 0.760 mM, 36.9 μL | O.NN
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-Methyl-benzylidene)-N′-{2-(4-methylphenyl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl}-hydrazine | CC=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C3=CC=C(C=C3)C)C=CC1 | C25H26N6O
